US06576763B1
(R)-9-[2(L-Valyloxymethyl)-4-(stearoyloxy)butyl]guanine
A mixture of N-Boc-L-valine (528 mg; 2.1 mmol) and N,N′-dicyclohexyl carbodiimide (250 mg; 1.21 mmol) in dichloromethane (20 ml) was stirred over night at room temperature dicyclohexylurea filtered off and extracted with a small volume of dichloromethane, and the filtrate evaporated in vacuo to a small volume. (R)-9-[2-Hydroxymethyl-4-(stearoyloxy)butyl]guanine (340 mg; 0.654 mmol), 4-dimethylaminopyridine (25 mg; 0,205 mmol and dry N,N-dimethylformamide (15 ml) were added and the mixture was stirred for 4 h at 50° C. under N2. The solvent was evaporated in vacuo to a small volume. Column chromatography on silica gel, their on aluminum oxide (ethyl acetate:methanol: water 15:2:1 as eluent) gave 185 mg (39%) pure title compound as a white solid.

reactant | N-Boc-L-valine | 2.1 mmol, 528 mg | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | N,N′-dicyclohexyl carbodiimide | 1.21 mmol, 250 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | (R)-9-[2-Hydroxymethyl-4-(stearoyloxy)butyl]guanine | 0.654 mmol, 340 mg | OC[C@@H](CN1C=2N=C(NC(C2N=C1)=O)N)CCOC(CCCCCCCCCCCCCCCCC)=O | C28H49N5O4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (R)-9-[2(L-Valyloxymethyl)-4-(stearoyloxy)butyl]guanine | 185 mg, 39% | N[C@@H](C(C)C)C(=O)OC[C@@H](CN1C=2N=C(NC(C2N=C1)=O)N)CCOC(CCCCCCCCCCCCCCCCC)=O | C33H58N6O5
